US05231223
20.7 g of sodium nitrite in 50 ml of water are added dropwise at 0°-5° C. to 41.1 g of anthranilic acid and 24 ml of conc. H2SO4 in 300 ml of water and the mixture is stirred at this temperature for 20 minutes. An excess of nitrite which may be present is destroyed by addition of sulphamic acid. The solution of the diazonium salt prepared in this way is added dropwise at about 60° C. to a rapidly stirred mixture of 62.4 g of styrene and 20 ml of water, and immediately after the start of addition the mixture is treated with 68 mg of Pd(OAc)2. After addition and evolution of gas are complete, the mixture is allowed to cool and the solid is filtered off with suction, washed with warm water and dried at 60° C. 62.5 g (93%) of stilbene-2-carboxylic acid of m.p. 158°-159° C. are obtained, Lit 158 -160° C., Chem. Ber. 27, 2506 (1894).

reactant | sodium nitrite | 20.7 g | N(=O)[O-].[Na+]
reactant | anthranilic acid | 41.1 g | C(C=1C(N)=CC=CC1)(=O)O | C7H7NO2
reactant | H2SO4 | 24 ml | OS(=O)(=O)O | H2O4S
reactant | styrene | 62.4 g | C=CC1=CC=CC=C1 | C8H8
solvent | water | 50 ml | O | H2O
solvent | water | 300 ml | O | H2O
catalyst | Pd(OAc)2 | 68 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
solvent | water | 20 ml | O | H2O
product | stilbene-2-carboxylic acid | 62.5 g, 93% | C=1(C(=CC=CC1)C(=O)O)C=CC1=CC=CC=C1 | C15H12O2
